US06627629B2
Part F. Preparation of [(3R,4S)-4-amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone
[1,1-Dioxo-(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluoro-benzyl)-piperidin-1-yl]-methanone (790 mg, 1.72 mmol), palladium hydroxide (20 weight % on carbon, dry basis; 1.1 g) and methanol (50 mL) were combined in a pressure bottle and shaken under a hydrogen atmosphere (55-60 psig) for 20.5 h. The mixture was filtered through Celite, and the solids were washed thoroughly with methanol. The filtrate was concentrated to give the product as a solid (660 mg, quantitative), used without further purification. 1H NMR (300 mHz, CD3OD) δ7.20 (m, 2H), 7.00 (m, 2H), 4.45 and 4.32 (2m, 1H), 4.09 (m, 1H), 3.90 and 3.79 (2m, 1H), 3.7-3.4 (m, 2H), 3.13 (m, 2H), 2.87 and 2.69 (2m, 1H), 2.56 (m, 2H), 1.79 (m, 3H), 1.28 (m, 3H), 0.88 (m, 1H), ESI MS: (M+H)+=355.2.

reactant | [1,1-Dioxo-(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluoro-benzyl)-piperidin-1-yl]-methanone | 1.72 mmol, 790 mg | O=S1(C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)=O | C25H31FN2O3S
catalyst | palladium hydroxide | 1.1 g | [OH-].[Pd+2].[OH-]
solvent | methanol | 50 mL | CO | CH4O
product | [(3R,4S)-4-amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone | 660 mg | N[C@H]1[C@@H](CS(C1)(=O)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C17H23FN2O3S
